US05051423
N-[2-[[2-Hydroxy-3-phenyloxypropyl](phenylmethyl)amino]ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide
To a solution of 7.95 9 (20 mmol) N-[2-(phenylmethyl)amino)ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide in 20 mL 10% aqueous methanol is added 2.89 mL (21 mmol) 1,2-epoxy-3-phenoxypropane. The solution is stirred at room temperature for 24 h. After this time, the solvents are evaporated and the title compound is obtained as a foamy solid via column chromatography on silica gel (hexane:acetone, 9:1).

reactant | N-propyl-4-[(methylsulfonyl)amino]benzamide | C(CC)NC(C1=CC=C(C=C1)NS(=O)(=O)C)=O | C11H16N2O3S
reactant | 1,2-epoxy-3-phenoxypropane | 21 mmol, 2.89 mL | O1CC1COC1=CC=CC=C1 | C9H10O2
solvent | methanol | 20 mL | CO | CH4O
product | N-[2-[[2-Hydroxy-3-phenyloxypropyl](phenylmethyl)amino]ethyl]-N-propyl-4-[(methylsulfonyl)amino]benzamide | OC(CN(CCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)CCC)CC1=CC=CC=C1)COC1=CC=CC=C1 | C29H37N3O5S
